US06538004B2
4-(3-bromo-4-fluorophenyl)-1-methyl-1,2,4,6,7,8-hexahydro-3H-pyrazolo[3,4-b]thieno[2,3-e]pyridin-3-one 5,5-dioxide
5-Amino-1-methyl-1,2-dihydropyrazol-3-one (0.17 g, 1.5 mmol), 3-bromo-4-fluorobenzaldehyde (0.3 g, 1.5 mmol), and tetrahydrothiophene-3-oxo-1,1-dioxide (0.2 g, 1.5 mmol) in ethyl alcohol (3 mL) were heated at 80° C. for 2 days in a sealed tube. The reaction mixture was cooled and the resulting precipitate was filtered off and washed with ethyl acetate to provide 0.41 g of the title compound as a tan solid. 1H NMR (300 MHz, DMSO-d6) δ 2.88 (m, 1H), 3.03 (m, 1H), 3.4 (m, 2H), 3.48 (s, 3H), 4.92 (s, 1H), 7.21 (m, 1H), 7.24 (t, 1H), 7.4 (d, 1H), 9.55 (s, 1H), 9.89 (s, 1H);MS (ESI−) m/z 414 (M−H)−; Anal. Calcd for C15H13N3BrFO3S: C, 43.49;H, 3.16; N, 10.14. Found: C, 43.64;H, 3.50; N, 9.84.

reactant | 5-Amino-1-methyl-1,2-dihydropyrazol-3-one | 1.5 mmol, 0.17 g | NC1=CC(NN1C)=O | C4H7N3O
reactant | 3-bromo-4-fluorobenzaldehyde | 1.5 mmol, 0.3 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | tetrahydrothiophene-3-oxo-1,1-dioxide | 1.5 mmol, 0.2 g | C1CS(=O)(=O)CC1=O | C4H6O3S
solvent | ethyl alcohol | 3 mL | C(C)O | C2H6O
product | 4-(3-bromo-4-fluorophenyl)-1-methyl-1,2,4,6,7,8-hexahydro-3H-pyrazolo[3,4-b]thieno[2,3-e]pyridin-3-one 5,5-dioxide | 0.41 g | BrC=1C=C(C=CC1F)C1C2=C(NC3=C1S(CC3)(=O)=O)N(NC2=O)C | C15H13BrFN3O3S
